US04880799
A mixture of 8.6 g o-nitrobenzyl chloride, 7.6 g sarcosine ethyl ester hydrochloride and 13.8 g K2CO3 was refluxed in 300 ml acetone for 16 hours, whereafter the mixture was filtered and evaporated. The oily residue was partitioned between ether/1N HCl. The aqueous phase was separated and pH was adjusted to 10 with dil. NaOH, whereafter it was extracted with dichloromethane. The organic phase was dried over Na2SO4 and evaporated. This left an oil which was hydrogenated using a standard procedure by means of 5% PD/C to give N-(o-aminobenzyl)sarcosine ethyl ester as an oil.

reactant | o-nitrobenzyl chloride | 8.6 g | [N+](=O)([O-])C1=C(CCl)C=CC=C1 | C7H6ClNO2
reactant | sarcosine ethyl ester hydrochloride | 7.6 g | Cl.C(C)OC(CNC)=O
reactant | K2CO3 | 13.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | N-(o-aminobenzyl)sarcosine ethyl ester | C(C)OC(CN(C)CC1=C(C=CC=C1)N)=O | C12H18N2O2
